US08492378B2
6-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-1-methyl-1H-benzimidazole
In the same manner as in Example 14 and using 1-methyl-1H-benzimidazole-6-carbohydrazide instead of 1H-benzotriazole-5-carbohydrazide and 3-(3-fluorophenyl)propionic acid instead of 3-(3-cyanophenyl)propionic acid, the title compound (yield 66%) was obtained as colorless crystals.

reactant | 1-methyl-1H-benzimidazole-6-carbohydrazide | CN1C=NC2=C1C=C(C=C2)C(=O)NN | C9H10N4O
reactant | 3-(3-fluorophenyl)propionic acid | FC=1C=C(C=CC1)CCC(=O)O | C9H9FO2
product | 6-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-1-methyl-1H-benzimidazole | yield 66% | FC=1C=C(C=CC1)CCC1=NN=C(O1)C=1C=CC2=C(N(C=N2)C)C1 | C18H15FN4O
